US05107026
Preparation of 4-(Phenylethynyl)-2-(trifluoromethyl)aniline
A multinecked flask as described in Example 1 was charged with 10.0 g (0.042 mol) of 2-amino-5-bromobenzotrifluoride, 100 ml of dried, degassed triethylamine, 5.32 g (0.052 mol) of phenylacetylene, 0.48 g (0.41 mmol) of tetrakis(triphenylphosphine)palladium(O), 0.1 g (0.38 mmol) of triphenylphosphine, and 0.05 g (0.26 mmol) of cuprous iodide. The reaction mixture was heated at 70° C. for 48 hours at which point thin layer chromatography showed the reaction to be complete. The product mixture was cooled to room temperature and diluted with 50 ml of toluene. Filtration of the triethylamine hydrobromide salt by-product followed by concentration of the filtrate under reduced pressure gave the crude product as a yellow oil. Fractionation under reduced pressure (bp 146°-150° C./1.2 mm Hg) gave 7.22 g (0.028 mol, 66% yield) of the product as a viscous yellow oil.

reactant | 2-amino-5-bromobenzotrifluoride | 0.042 mol, 10.0 g | NC1=C(C=C(C=C1)Br)C(F)(F)F | C7H5BrF3N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 0.052 mol, 5.32 g | C1(=CC=CC=C1)C#C | C8H6
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.41 mmol, 0.48 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
catalyst | triphenylphosphine | 0.38 mmol, 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-(Phenylethynyl)-2-(trifluoromethyl)aniline | 0.028 mol, 7.22 g, 66% yield | C1(=CC=CC=C1)C#CC1=CC(=C(N)C=C1)C(F)(F)F | C15H10F3N
